US07947730B2
c) Hydroxy-di-thiophen-2-yl-acetic acid (R)-1-methyl-piperidin-3-yl ester
A solution of 2-bromothiophene (0.092 ml, 0.94 mmol) in THF (2 ml) is added to magnesium (0.576 g, 23.7 mmol) followed by a single crystal of iodine. Additional 2-bromothiophene (2.2 ml, 22.8 mmol) in THF (48 ml) is then added dropwise whilst maintaining a gentle reflux. After the addition is completed the reaction mixture is heated to reflux for 1 hour. This mixture is then added to a solution of oxo-thiophen-2-yl-acetic acid (R)-1-methyl-piperidin-3-yl ester (6 g, 23.7 mmol) in THF dropwise with stirring. After the addition is completed the reaction mixture is heated to reflux for 2 hours. After cooling to room temperature saturated aqueous ammonium chloride solution (100 ml) is added followed by water (100 ml). The resulting solution is extracted with ethylacetate (200 ml) and the resulting organic phase extracted with 1 Molar hydrochloric acid (100 ml). Basification of the aqueous layer with sodium carbonate, extraction with ethylacetate, drying over magnesium sulphate, filtration and concentration gives the title product as a brown oil which crystallises on standing.

reactant | 2-bromothiophene | 0.94 mmol, 0.092 ml | BrC=1SC=CC1 | C4H3BrS
reactant | magnesium | 23.7 mmol, 0.576 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-bromothiophene | 22.8 mmol, 2.2 ml | BrC=1SC=CC1 | C4H3BrS
reactant | oxo-thiophen-2-yl-acetic acid (R)-1-methyl-piperidin-3-yl ester | 23.7 mmol, 6 g | CN1C[C@@H](CCC1)OC(C(C=1SC=CC1)=O)=O | C12H15NO3S
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 48 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | Hydroxy-di-thiophen-2-yl-acetic acid (R)-1-methyl-piperidin-3-yl ester | CN1C[C@@H](CCC1)OC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C16H19NO3S2
